US06699868B2
6-(4-hydrazinophenyl)-2-methyl-2H-pyridazin-3-one
The title compound was prepared from 6-(4-aminophenyl)-2-methyl-2H-pyridazin-3-one similarly as 6-(4-hydrazinophenyl)-5-methyl-4,5-dihydro-2H-pyridazin-3-one.

reactant | 6-(4-aminophenyl)-2-methyl-2H-pyridazin-3-one | NC1=CC=C(C=C1)C=1C=CC(N(N1)C)=O | C11H11N3O
reactant | 6-(4-hydrazinophenyl)-5-methyl-4,5-dihydro-2H-pyridazin-3-one | N(N)C1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H14N4O
product | 6-(4-hydrazinophenyl)-2-methyl-2H-pyridazin-3-one | N(N)C1=CC=C(C=C1)C=1C=CC(N(N1)C)=O | C11H12N4O
